US20010056188A1
2) 2-(4-Chlorophenylsulfonyl)-3-(3,5-dimethoxyphenylamino)-3-(1,2,2-trimethylpropylamino)- 2-propenenitrile
2-(4-Chlorophenylsulfonyl)-3-(3, 5-dimethoxyphenylamino)-3-methylsulfanyl-2-propenenitrile (0.34 g, 0.8 mmol) was stirred in 1 ,2,2-trimethylpropylamine (1 ml) for 22 h at 75° C. under nitrogen. Work up as described in EXAMPLE 1, 2) gave 264 mg (72%) of the title compound. Mp 177.5-179° C. 1H NMR (200 MHz, CDCl3): δ=0.82 (s, 9H), 0.95 (d, 3H), 3.2 (m, 1H), 6.13 (d, 2H), 6.32 (t, 1H), 7.45 (d, 2H), 7.82 (d, 2H); EI SP/MS: 478 (M+).

reactant | 2-(4-Chlorophenylsulfonyl)-3-(3, 5-dimethoxyphenylamino)-3-methylsulfanyl-2-propenenitrile | 0.8 mmol, 0.34 g | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(SC)NC1=CC(=CC(=C1)OC)OC | C18H17ClN2O4S2
reactant | 1 ,2,2-trimethylpropylamine | 1 ml | CC(C(C)(C)C)N | C6H15N
product | 2-(4-Chlorophenylsulfonyl)-3-(3,5-dimethoxyphenylamino)-3-(1,2,2-trimethylpropylamino)- 2-propenenitrile | 264 mg, 72% | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(NC(C(C)(C)C)C)NC1=CC(=CC(=C1)OC)OC | C23H28ClN3O4S
